US07091214B2
A solution of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (28.3 g, 0.118 mol) in concentrated sulfuric acid (150 mL) was cooled to 5° C. A solution of 70% nitric acid (8.4 mL, 0.130 mol) in sulfuric acid (30 mL) was added in portions over a period of one hour. The reaction temperature was maintained below 10° C. The solution was allowed to warm to ambient temperature, stirred for two hours, and then poured into 500 g of ice. The resulting solution was made basic with the addition of ammonium hydroxide while keeping the solution cold. A precipitate formed, was isolated by filtration, washed with water, and dried to provide 1-(2-methylpropyl)-8-nitro-1H-imidazo[4,5-c]quinolin-4-amine as a yellow solid.

reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.118 mol, 28.3 g | CC(CN1C=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H16N4
reactant | nitric acid | 0.130 mol, 8.4 mL | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 1-(2-methylpropyl)-8-nitro-1H-imidazo[4,5-c]quinolin-4-amine | CC(CN1C=NC=2C(=NC=3C=CC(=CC3C21)[N+](=O)[O-])N)C | C14H15N5O2
